US04537969
A mixture containing 4-[2-(4,5-dihydro-1H-imidazol-2-yl)ethyl]piperidine (1 g, 0.0055M), methanol (10 ml) and dimethylformamide dimethylacetal (10 ml) was heated at 90° C. for 8 hours. The excess of dimethylformamide was removed in vacuo to give 4-[2-(4,5-dihydro-1H-imidazol-2-yl)ethyl]-1-piperidine carboxaldehyde dimethylacetal. To the mixture of 6-aminopenicillanic acid (1.01 g, 0.0045M) and diisopropylethylamine (0.54 ml) in dried chloroform (30 ml) was added the chloroform solution (20 ml) of the above piperidinecarboxaldehyde dimethylacetal at 0° C. The reaction was stirred at 0° C. for 1 hour and at room temperature for 3 hours. After the reaction, the solvent was removed and the residue dissolved in water (20 ml). The aqueous solution, washed with ethylacetate was acidified to pH3 with dil. HCl and purified on Sephadex LH 20 columns to give [2S-(2alpha,5alpha,6 beta)]-6-[[[4-[2-(4,5-dihydro-1H-imidazol-2-yl)ethyl]-1-piperidinyl]methylene]-amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]-heptane-2-carboxylic acid hydrochloride (1.11 g, 45% yield).

reactant | 4-[2-(4,5-dihydro-1H-imidazol-2-yl)ethyl]piperidine | 0.0055M, 1 g | N1C(=NCC1)CCC1CCNCC1 | C10H19N3
reactant | dimethylformamide dimethylacetal | 10 ml | COC(N(C)C)OC | C5H13NO2
solvent | methanol | 10 ml | CO | CH4O
product | 4-[2-(4,5-dihydro-1H-imidazol-2-yl)ethyl]-1-piperidine carboxaldehyde dimethylacetal | COC(N1CCC(CC1)CCC=1NCCN1)OC | C13H25N3O2
